US07323465B2
n-Propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide (115 mg) was dissolved in THF (15 ml). Sodium hydride (60 mg) was added followed by stirring for 15 min at 50° C. Then 2-chloro-5-bromo-pyrimidine (135 mg) was added and stirring was continued for 8 h at 75° C. The reaction mixture was poured onto ice water, acidified with solid citric acid and extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered and the solvent was evaporated. The crude material was purified by plate chromatography with diethyl ether to give n-propanesulfonic acid {6-[2-(5-bromo-pyrimidin-2-yloxy)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-amide (65 mg) as a white powder. LC-MS: tR: 4.91, [M+H]+: 510.13.

reactant | n-Propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide | 115 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)CCC)C1=CC=C(C=C1)C | C16H21N3O4S
reactant | Sodium hydride | 60 mg | [H-].[Na+]
reactant | 2-chloro-5-bromo-pyrimidine | 135 mg | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | n-propanesulfonic acid {6-[2-(5-bromo-pyrimidin-2-yloxy)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-amide | 65 mg | BrC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)CCC)C1=CC=C(C=C1)C | C20H22BrN5O4S
